US07893273B2
238 g (1 mol) of dimethyl 3,3′-dithiodipropionamide and 280 g (2.17 mol) of n-octylamine were added into 300 ml of methanol in a 1,000 ml reaction flask, and the reactants stirred at 5° C. for 5 days (under nitrogen atmosphere, if desired). The reaction mixture was then cooled to −10° C., and separated by centrifuging to give 329 g of a solid of N,N′-di-n-octyl-3,3′-dithiodipropionamide (purity >95%, yield 76%). The mother liquor was recycled after methanol was recovered by evaporation.

reactant | dimethyl 3,3′-dithiodipropionamide | 1 mol, 238 g | CC(C(=O)N)(CSSCCC(=O)N)C | C8H16N2O2S2
reactant | n-octylamine | 2.17 mol, 280 g | C(CCCCCCC)N | C8H19N
solvent | methanol | 300 ml | CO | CH4O
product | N,N′-di-n-octyl-3,3′-dithiodipropionamide | yield 76% | C(CCCCCCC)NC(CCSSCCC(=O)NCCCCCCCC)=O | C22H44N2O2S2
